US07470723B2
To a solution of cyanomethylphosphonic acid diethyl ester (8.1 mL, 51.6 mmol) in anhydrous THF (50 mL) was added lithium bis(trimethylsilyl)amide (1.0 M solution in THF, 51.6 mL, 51.6 mmol) at 0° C. and stirred for 30 min at room temperature followed by addition of (3-ethoxy-4-methoxy-phenyl)-(3-hydroxy-4-methoxy-phenyl)-methanone (5.20 g, 17.2 mmol) in THF (40 mL) and refluxed overnight. The reaction mixture was poured into water (50 mL), extracted with CH2Cl2 (2×60 mL). The combined organic phases were washed with brine (60 mL), dried over MgSO4, and purified via flash column chromatography (EtOAc/Hexane) to give E/Z-3-(3-ethoxy-4-methoxy-phenyl) -3-(3-hydroxy-4-methoxy-phenyl)-acrylonitrile as an off-white solid (5.26 g, 94% yield). The product was used in the next step without further purification.

reactant | cyanomethylphosphonic acid diethyl ester | 51.6 mmol, 8.1 mL | C(C)OP(OCC)(=O)CC#N | C6H12NO3P
reactant | lithium bis(trimethylsilyl)amide | 51.6 mmol, 1.0 M, 51.6 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | (3-ethoxy-4-methoxy-phenyl)-(3-hydroxy-4-methoxy-phenyl)-methanone | 17.2 mmol, 5.20 g | C(C)OC=1C=C(C=CC1OC)C(=O)C1=CC(=C(C=C1)OC)O | C17H18O5
reactant | water | 50 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
product | Z-3-(3-ethoxy-4-methoxy-phenyl) -3-(3-hydroxy-4-methoxy-phenyl)-acrylonitrile | 5.26 g, 94% yield | C(C)OC=1C=C(C=CC1OC)\C(=C/C#N)\C1=CC(=C(C=C1)OC)O | C19H19NO4
